US06699867B2
A suspension of 0.89 g of N-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl] acetamide in 10.3 mL of an aqueous acid solution of 6N hydrochloric acid is heated at a temperature of about 100° C. for 3 hours. After cooling at a temperature of about 60° C., the reaction medium is filtered and the filtrate is concentrated under reduced pressure (2 kPa) at a temperature of about 60° C. About 1 g of 2-amino-3-(4-methyl-piperazinyl)-1-propanol, hydrochloride is obtained in the form of a tacky beige-colored paste. [Infrared spectrum (KBr) 3337; 2955; 2637; 2522; 1617; 1457; 1062; 1009 and 962 cm−1].

reactant | N-[2-hydroxy-1-(4-methyl-piperazin-1-ylmethyl)ethyl] acetamide | 0.89 g | OCC(CN1CCN(CC1)C)NC(C)=O | C10H21N3O2
reactant | hydrochloric acid | 6N | Cl | ClH
product | 2-amino-3-(4-methyl-piperazinyl)-1-propanol, hydrochloride | 1 g | Cl.NC(CO)CN1CCN(CC1)C | InChI=1S/C8H19N3O.ClH/c1-10-2-4-11(5-3-10)6-8(9)7-12;/h8,12H,2-7,9H2,1H3;1H
